US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-1-isopropyl-3-methylxanthine
A solution of 3-methyl-7-[4-(4-chlorobenzoyl)-benzyl]xanthine (544 mg), potassium carbonate (202 mg) and isopropyl iodide (356 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:1) and recrystallized from acetone-hexane to provide the title compound as colorless solid (38 mg).

reactant | 3-methyl-7-[4-(4-chlorobenzoyl)-benzyl]xanthine | 544 mg | CN1C(NC(C=2N(C=NC12)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)=O)=O | C20H15ClN4O3
reactant | potassium carbonate | 202 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 356 mg | C(C)(C)I | C3H7I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(4-Chlorobenzoyl)benzyl]-1-isopropyl-3-methylxanthine | 38 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C(C)C)=O)C)C=C2)C=C1 | C23H21ClN4O3
